US07923573B2
Tetrakis(triphenylphosphine)palladium (0) (1.03 g, 0.89 mmol) and potassium carbonate (8.22 g, 59.5 mmol) were added to a solution of 3,5-dibromo-4-methylpyridine (7.46 g, 29.73 mmol) which was synthesized according to the method described in literature (Gu, Y. G. and Bayburt, E. K., Tetrahedron Lett., vol.: 37, 1966, pp. 2565-2568) and 4-methoxyphenylboronic acid (4.52 g, 29.73 mmol) in a mixture of N,N-dimethylacetamide-water (20:1, 100 ml), and the mixture was stirred at 80° C. for 4 hours. After the temperature of the reaction mixture was set to room temperature and ethyl acetate was added thereto, the insolubles were removed by filtration. The obtained filtrate was successively washed with water (twice) and a saturated aqueous NaCl solution and dried with anhydrous sodium sulfate. The residue obtained by removing the solvent under reduced pressure was purified by silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=4/1) to give 3-bromo-5-(4-methoxyphenyl)-4-methylpyridine (3.83 g, yield: 46%).

reactant | potassium carbonate | 59.5 mmol, 8.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-dibromo-4-methylpyridine | 29.73 mmol, 7.46 g | BrC=1C=NC=C(C1C)Br | C6H5Br2N
reactant | 4-methoxyphenylboronic acid | 29.73 mmol, 4.52 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide water | 100 ml | CN(C(C)=O)C.O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.89 mmol, 1.03 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-bromo-5-(4-methoxyphenyl)-4-methylpyridine | 3.83 g, yield: 46% | BrC=1C=NC=C(C1C)C1=CC=C(C=C1)OC | C13H12BrNO
